US07858640B2
{8-chloro-4-difluoromethoxy-2-ethyl-3-[4-(pyrrolidine-1-carbonyl)benzyl]quinolin-5-yloxy}acetic Acid
A mixture of {8-chloro-4-difluoromethoxy-2-ethyl-3-[4-(pyrrolidine-1-carbonyl)benzyl]quinolin-5-yloxy}acetic acid methyl ester (0.037 g), tetrahydrofuran (3.0 mL) and 1.0 M aqueous lithium hydroxide solution (1.0 mL) was stirred at room temperature for 1 hour. The mixture was concentrated under reduced pressure, acidified by the addition of sodium dihydrogenphosphate and extracted with ethyl acetate. The combined extracts were dried over magnesium sulfate and the solvent removed under reduced pressure to afford title compound, 0.034 g.

reactant | {8-chloro-4-difluoromethoxy-2-ethyl-3-[4-(pyrrolidine-1-carbonyl)benzyl]quinolin-5-yloxy}acetic acid methyl ester | 0.037 g | COC(COC1=C2C(=C(C(=NC2=C(C=C1)Cl)CC)CC1=CC=C(C=C1)C(=O)N1CCCC1)OC(F)F)=O | C27H27ClF2N2O5
reactant | lithium hydroxide | 1.0 M, 1.0 mL | [OH-].[Li+]
solvent | tetrahydrofuran | 3.0 mL | O1CCCC1 | C4H8O
product | {8-chloro-4-difluoromethoxy-2-ethyl-3-[4-(pyrrolidine-1-carbonyl)benzyl]quinolin-5-yloxy}acetic Acid | ClC=1C=CC(=C2C(=C(C(=NC12)CC)CC1=CC=C(C=C1)C(=O)N1CCCC1)OC(F)F)OCC(=O)O | C26H25ClF2N2O5
